* SpiceNetList
* 
* Exported from opamp1.sch at 6/2/2021 6:16 PM
* 
* EAGLE Version 9.5.2 Copyright (c) 1988-2019 Autodesk, Inc.
* 
.TEMP=25.000000
* --------- .OPTIONS ---------
* --------- .PARAMS ---------

* --------- devices ---------
D_D1 VDIST1 0 DMOD 
V_VSUPPLY1 VSS 0 -3V 
V_VSRC VIN 0 DC 0V AC 1 SIN(0 150mV 1khz 0.1ms 0) 
R_R3 VOUT1 VDIST1 100 
R_R2 VIN N_1 2.7k 
X_X1 0 N_1 VDD VSS VOUT1 OPAMP 
C_C3 N_1 VOUT1 100p 
R_R1 N_1 VOUT1 22.7k 
V_VSUPPLY VDD 0 3V 
D_D3 0 VDIST1 DMOD 

* --------- models ---------

* (model found in library)

* Autodesk EAGLE
* BASIC OP AMP MODEL
* Device Pins In+ In- vdd vss Vout
* vdd vss unused in this model!!
.SUBCKT opamp 1 2 vdd vss vout
*
* INPUT
RIN   1   2   1e9
*
*  AMPLIFIER STAGE: GAIN, POLE, SLEW
*   Aol=10000, fu=1000000 Hz
G1   0    10  VALUE = { 1e-2 * V(1,2)  }
R1   10   0   1e6
C1   10   0   1.59e-9
*
* 2ND POLE 
G2   0 20   10 0  1e-6
R2   20       0     1e6
C2   20       0     3.3e-14
*
* 3RD POLE 
G3   0 30   20 0 1e-6
R3   30       0     1e6
C3   30       0     3.3e-14
*
* OUTPUT STAGE
EBUFFER 80 0  30  0    1
ROUT 80 vout 100
.ENDS opamp


* (model found in library)

**********************
* Autodesk EAGLE - Spice Model File
* Date: 9/17/17
* basic diode intrinsic model
**********************
.MODEL DMOD D


* --------- simulation ---------
.print DC V(VIN) V(VOUT1) V(VDIST1) I(V_VSUPPLY) I(V_VSUPPLY1) I(V_VSRC)
.print AC V(VIN) V(VOUT1) V(VDIST1) I(V_VSUPPLY) I(V_VSUPPLY1) I(V_VSRC)
.print TRAN V(VIN) V(VOUT1) V(VDIST1) I(V_VSUPPLY) I(V_VSUPPLY1) I(V_VSRC)
.END










